US04845105
Using the procedure of Step A of Example 1, 19.44 g of 2-acetylamino thiazole and 17.3 g of 2-(1-propenyl)-8-trifluoromethyl-4H-3,1-benzoxazin-4-one [prepared by Step A of Example 12 of European Pat. No. 40,573 from crotonyl chloride and 2-amino-trifluoromethyl benzoic acid] were reacted to obtain 19.03 g of β-oxo-2-[(1-oxo-2-butenyl)-amino]-N-(2-thiazolyl)-3-trifluoromethyl-benzene-proponamide melting at 206°-208° C.

reactant | 2-acetylamino thiazole | 19.44 g | C(C)(=O)NC=1SC=CN1 | C5H6N2OS
reactant | 2-(1-propenyl)-8-trifluoromethyl-4H-3,1-benzoxazin-4-one | 17.3 g | C(=CC)C1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F | C12H8F3NO2
reactant | crotonyl chloride | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | 2-amino-trifluoromethyl benzoic acid | NC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H6F3NO2
product | β-oxo-2-[(1-oxo-2-butenyl)-amino]-N-(2-thiazolyl)-3-trifluoromethyl-benzene-proponamide | 19.03 g | O=C(CC(=O)NC=1SC=CN1)C1=C(C(=CC=C1)C(F)(F)F)NC(C=CC)=O | C17H14F3N3O3S
